US05514680
1,2-Diamino-3,4,5,6-tetrachlorobenzene was prepared using an adaptation of the method of Bellamy et al. (Bellamy, F. D. et al., Tetrahedron Lett. 25:839 (1984)). A mixture of 1,2-dinitro-3,4,5,6-tetrachlorobenzene (1.00 g, 3.27 mmol) and SnCl2 ·2H2O (3.69 g, 16.4 mmol) dissolved in 10 mL ethyl acetate and 5 mL absolute ethanol under N2 was heated at 80° C. for 1 h. The reaction was allowed to cool to room temperature and poured into 20 mL crushed ice. Sufficient sat'd NaHCO3 solution was adding (foaming ) to bring the pH to 6. The thick white emulsion was extracted with 3×25 mL ethyl acetate and the combined organic extracts washed with sat'd NaCl solution. The organic phase was dried (MgSO4), vacuum filtered and the solvent rotary evaporated to yield a brown solid 569 mg (71%). 1H NMR (CDCl3) δ3.96 (br s, 2(NH2)). 13C NMR (CDCl3) δ118.2, 127.0, 132.0.

reactant | 1,2-dinitro-3,4,5,6-tetrachlorobenzene | 3.27 mmol, 1.00 g | [N+](=O)([O-])C1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)[N+](=O)[O-] | C6Cl4N2O4
reactant | SnCl2 | Cl[Sn]Cl
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 1,2-Diamino-3,4,5,6-tetrachlorobenzene | NC1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)N | C6H4Cl4N2
